US04251530
2-{3-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]propyl}-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one hydrochloride
To a solution of 3.2 g. (15.1 mmole) of 2-(3-chloropropyl)-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one in 25 ml. toluene is added 2.4 g. (12.1 mmole) of 6-chloro-2-(1-piperazinyl)pyrazine and 2.1 ml. triethylamine. The mixture is refluxed 3 days under N2, cooled, and filtered to give 1.85 g. of the crude base of the title compound. The crude base is chromatographed on silica gel to give the pure base on elution with 1-2% methanol-chloroform. This material is dissolved in absolute ethanol and the solution treated with anhydrous hydrogen chloride to give tan crystals of title compound, m.p. 243°-245°, dec.

reactant | 2-(3-chloropropyl)-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | 15.1 mmole | ClCCCN1N=C2N(C=CC=C2)C1=O | C9H10ClN3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 6-chloro-2-(1-piperazinyl)pyrazine | 12.1 mmole | ClC1=CN=CC(=N1)N1CCNCC1 | C8H11ClN4
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-{3-[4-(6-chloro-2-pyrazinyl)-1-piperazinyl]propyl}-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CCCN1N=C2N(C=CC=C2)C1=O | InChI=1S/C17H20ClN7O.ClH/c18-14-12-19-13-16(20-14)23-10-8-22(9-11-23)5-3-7-25-17(26)24-6-2-1-4-15(24)21-25;/h1-2,4,6,12-13H,3,5,7-11H2;1H
